US07893056B2
(2R)-3-Cyclopentyl-2-({formyl[(phenylmethyl)oxy]amino}methyl)propanoic acid (0.122 g, 0.4 mmol), racemic 1-(2-chloro-5-fluoro-6-hydrazino-4-pyrimidinyl)-3-methyl-3-pyrrolidinol (0.104 g, 0.4 mmol), NMM (0.13 mL, 1.2 mmol), HOAt (0.054 g, 0.4 mmol), EDC (0.077 g, 0.4 mmol) and DMF (2 mL) were combined. When the reaction was complete, the mixture was purified by RP-HPLC to provide [(2R)-3-{2-[2-chloro-5-fluoro-6-(3-hydroxy-3-methyl-1-pyrrolidinyl)-4-pyrimidinyl]hydrazino}-2-(cyclopentylmethyl)-3-oxopropyl][(phenylmethyl)oxy]formamide as a mixture of diastereomers (0.035 g, 16%). LCMS: (M+H)+=549.5.

reactant | (2R)-3-Cyclopentyl-2-({formyl[(phenylmethyl)oxy]amino}methyl)propanoic acid | 0.4 mmol, 0.122 g | C1(CCCC1)C[C@@H](C(=O)O)CN(OCC1=CC=CC=C1)C=O | C17H23NO4
reactant | racemic 1-(2-chloro-5-fluoro-6-hydrazino-4-pyrimidinyl)-3-methyl-3-pyrrolidinol | 0.4 mmol, 0.104 g | ClC1=NC(=C(C(=N1)N1CC(CC1)(O)C)F)NN | C9H13ClFN5O
reactant | NMM | 1.2 mmol, 0.13 mL | CN1CCOCC1 | C5H11NO
reactant | HOAt | 0.4 mmol, 0.054 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | EDC | 0.4 mmol, 0.077 g
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | [(2R)-3-{2-[2-chloro-5-fluoro-6-(3-hydroxy-3-methyl-1-pyrrolidinyl)-4-pyrimidinyl]hydrazino}-2-(cyclopentylmethyl)-3-oxopropyl][(phenylmethyl)oxy]formamide | ClC1=NC(=C(C(=N1)NNC([C@@H](CN(C=O)OCC1=CC=CC=C1)CC1CCCC1)=O)F)N1CC(CC1)(C)O | C26H34ClFN6O4
